US06890885B2
The 2-methyl-6-trifluoromethyl-nicotinic acid (2.0 g, 0.0098 mol) obtained is dissolved in 20 ml of oxalyl chloride. Three drops of dimethylformamide are added and the mixture is refluxed for 1 hour. The mixture is then concentrated using a rotary evaporator and the residue (2-methyl-6-trifluoromethyl-nicotinoyl chloride) is taken up in 30 ml of methylene chloride. At 0° C., 2.7 ml (0.0196 mol) of triethylamine and 0.12 g (0.00098 mol) of dimethylaminopyridine are added, and then 1.49 g (0.0108 mol) of bicyclo[3.2.1]oct-2,4-dione, dissolved in 20 ml of methylene chloride, are added dropwise. After 3 hours at 22° C., the reaction mixture is extracted by shaking with 2N hydrochloric acid. The separated methylene chloride phase is washed with water and then extracted by shaking with 10% aqueous sodium bicarbonate solution, dried over sodium sulfate and concentrated by evaporation. 3.18 g (100% of theory) of 2-methyl-6-trifluoromethyl-nicotinic acid 4-oxo-bicyclo[3.2.1]oct-2-en-2-yl ester are obtained in the form of an oil, which can be used further without purification.

reactant | 2-methyl-6-trifluoromethyl-nicotinic acid | 0.0098 mol, 2.0 g | CC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C8H6F3NO2
reactant | triethylamine | 0.0196 mol, 2.7 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.00098 mol, 0.12 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | oxalyl chloride | 20 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | Three drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-6-trifluoromethyl-nicotinic acid 4-oxo-bicyclo[3.2.1]oct-2-en-2-yl ester | 3.18 g, 100% | O=C1C=C(C2CCC1C2)OC(C2=C(N=C(C=C2)C(F)(F)F)C)=O | C16H14F3NO3
